US04282365
Treat a solution of 17.48 gm. (0.0763 mole) of methyl 5-bromo-o-toluate in 85 ml. of carbontetrachloride portionwise during 30 minutes with a mixture of 14.26 gm. (0.0801 mole) of N-bromosuccinimide and 152 mg. of benzoyl peroxide. Heat the resulting mixture under reflux for 3 hours. Cool to room temperature and separate the succinimide by filtration. Remove the solvent under vacuum to obtain methyl α,5-dibromo-o-toluate as a yellow residual oil. Heat a mixture of 7.18 gm. (0.0763 mole) of phenol, 85 ml. of dimethylformamide, 31.63 gm. (0.2289 mole) of potassium carbonate and the methyl α,5-dibromo-o-toluate obtained above at 55°-60° C. for 2 hours. Cool the mixture and pour into 350 ml. of water. Extract the resulting oil into ether, wash with water and dry over anhydrous magnesium sulfate. Remove the solvent under vacuum and allow the residual oil (24.51 gm.) to stand overnight. Separate the solids formed by placing the mixture on porous plates. Wash the solids with petroleum ether to obtain the title compound [yield 13.33 gm., m.p. 69.5°-70.5° C., pmr (CDCl3) 3.90(3H, s, CH3O--), 5.40(2H, s, CH2O--)].

reactant | methyl 5-bromo-o-toluate | 0.0763 mole | BrC1=CC=C(C(=C1)C)C(=O)OC | C9H9BrO2
reactant | N-bromosuccinimide | 0.0801 mole | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbontetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | methyl α,5-dibromo-o-toluate | BrCC=1C(=CC=C(C1)Br)C(=O)OC | C9H8Br2O2
